US05942644
One gram of the hydroxamic acid of(1S,2S)-2-carboxy-1-hydroxyindane is reacted with equimolar amounts of diethyl azodicarboxylate and triphenylphosphine in tetrahydrofuran at room temperature using the procedure of Bittner, Grinberg and Kartoon (Tet. Lett. 23, 1965-8 (1974)). The product is isolated by acidification and extraction of the reaction mixture with ethyl acetate, followed by basification of the resulting aqueous solution with NaOH, extraction with methyl t-butyl ether, drying of the extracts over MgSO4, filtration, and the removal of solvent by rotary evaporation. The product (1S,2S)-2-amino-1-indanol is isolated as a light yellow oil.

reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | (1S,2S)-2-amino-1-indanol | N[C@@H]1[C@H](C2=CC=CC=C2C1)O | C9H11NO
